US07585886B2
A 162 ml portion of 0.1 M potassium hydroxide aqueous solution was added to a 50 ml methanol solution of 3.01 g of dimethylpyridine-3,5-dicarboxylate and stirred at room temperature for 3Hours. The reaction solution was washed with diethyl ether, and the aqueous layer was concentrated under a reduced pressure. The residue was mixed with ethanol and stirred at 50° C. for 15Hours. The insoluble matter was removed by filtration, and then the filtrate was concentrated under a reduced pressure to obtain 2.51 g of potassium 5-(methoxycarbonyl)nicotinate as white crystals.

reactant | potassium hydroxide | 0.1 M | [OH-].[K+]
reactant | dimethylpyridine-3,5-dicarboxylate | 3.01 g | COC(=O)C=1C=NC=C(C1)C(=O)OC | C9H9NO4
solvent | methanol | 50 ml | CO | CH4O
product | potassium 5-(methoxycarbonyl)nicotinate | 2.51 g | COC(=O)C=1C=NC=C(C(=O)[O-])C1.[K+] | InChI=1S/C8H7NO4.K/c1-13-8(12)6-2-5(7(10)11)3-9-4-6;/h2-4H,1H3,(H,10,11);/q;+1/p-1
